US04820834
1,3-Dihydro-5-(2-fluorophenyl)-3(RS)-(2-thienyl)methyl-2H-1,4-benzodiazepin-2-one
The procedure of Example 1 was carried out using 2-amino-2'-fluorobenzophenone (1.26 gm, 5.86 mmol), N-Boc-β-(2-thienyl)-DL-alanine (1.75 gm, 6.45 mmol), and DCC (6.45 ml of 1.0M solution in CH2Cl2) in CH2Cl2 (25 ml). Filtration, concentration in vacuo and flash chromatography (silica gel, 1% (v/v) Et2O in CH2Cl2) gave a white foam which was deprotected and cyclized by the procedure of Example 2. After stirring 3 days, the mixture was evaporated in vacuo, treated with H2O (50 ml) and extracted with EtOAc (2×100 ml). The combined organic extracts were washed with brine (50 ml), dried over MgSO4, filtered, and evaporated to dryness in vacuo. The resulting foam was crystallized from Et2O to give the title compound as a white solid. The solid was dried in vacuo at 65° C.: (m.p. 189°-91° C.).

reactant | 2-amino-2'-fluorobenzophenone | 5.86 mmol, 1.26 gm | NC1=C(C(=O)C2=C(C=CC=C2)F)C=CC=C1 | C13H10FNO
reactant | N-Boc-β-(2-thienyl)-DL-alanine | 6.45 mmol, 1.75 gm | C(=O)(OC(C)(C)C)NC(CC=1SC=CC1)C(=O)O | C12H17NO4S
reactant | DCC | 1.0M, 6.45 ml | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 1,3-Dihydro-5-(2-fluorophenyl)-3(RS)-(2-thienyl)methyl-2H-1,4-benzodiazepin-2-one | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=CC=C2)=O)CC=2SC=CC2 | C20H15FN2OS
